US05663200
11b) 5(S)-[1(S)-(Boc-Amino)-2-(p-methoxyphenyl)ethyl]-3(R)-(phenylmethyl)dihydrofuran-2-(3H)-one
In analogy with Example 5d), 4.17 g (12.44 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-methoxyphenyl)ethyl]dihydrofuran-2-(3H)-one, dissolved in 22.4 ml of THF and 2.5 ml of DMPU, are deprotonated, at -70° C., with 24 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF, and alkylated (-75° C., 1 h) with 1.5 ml (12.44 mmol) of benzyl bromide. Protonation, at -75° C., with 4.6 ml of propionic acid and 4.6 ml of water, extraction and column chromatography (SiO2, methylene chloride/ether 25:1) yields the title compound: TLC Rf (C)=0,74; tRet (II)=16.6 min; FAB-MS (M+H)+ =426.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-methoxyphenyl)ethyl]dihydrofuran-2-(3H)-one | 12.44 mmol, 4.17 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OC)[C@@H]1CCC(O1)=O | C18H25NO5
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzyl bromide | 12.44 mmol, 1.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 22.4 ml | C1CCOC1 | C4H8O
solvent | DMPU | 2.5 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 5(S)-[1(S)-(Boc-Amino)-2-(p-methoxyphenyl)ethyl]-3(R)-(phenylmethyl)dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OC)[C@@H]1C[C@H](C(O1)=O)CC1=CC=CC=C1 | C25H31NO5
